US04107308
2-n-Propyl-4-imidazolecarboxaldehyde
A 108.6 gm. portion of 2-n-propyl-4-imidazolemethanol and 107 ml. of concentrated HNO3 are heated on a steam bath for 2 1/2 hours. Three drops of fuming HNO3 are added during this time. The pH is adjusted to 8 with concentrated aqueous Na2CO3 and the mixture is cooled to 0° C. overnight. The solid is recovered, washed with water and recrystallized from a mixture of ethyl acetate and petroleum ether giving a yellow solid. Treatment of the mother liquor gives an additional tacky solid which is triturated with 2-propanol giving a second solid. These two solids are taken up in hot 2-propanol and recrystallized as a yellow solid. This solid is recrystallized from ethanol:water (1:1) giving yellow crystals, m.p. 103.5°-105.5° C.

reactant | 2-n-propyl-4-imidazolemethanol | C(CC)C=1NC=C(N1)CO | C7H12N2O
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | HNO3 | Three drops | [N+](=O)(O)[O-] | HNO3
product | 2-n-Propyl-4-imidazolecarboxaldehyde | C(CC)C=1NC=C(N1)C=O | C7H10N2O
